US05411981
5,5-dimethyl-3-(4-nitro-3-trifluoromethyl-phenyl)-1-nonyl-2,4-imidazolidinedione
Using the procedure of Example 1, 1 g of 1-(3-trifluoromethyl-4-nitro-phenyl)-4,4-dimethyl imidazolidine-2,5-dione was reacted with a 50% suspension of 170 mg of sodium hydride in oil and 0.7 ml of 1-bromo-nonane to obtain after chromatography on silica 1.08 g of the desired product melting at 63° C.

reactant | 1-(3-trifluoromethyl-4-nitro-phenyl)-4,4-dimethyl imidazolidine-2,5-dione | 1 g | FC(C=1C=C(C=CC1[N+](=O)[O-])N1C(NC(C1=O)(C)C)=O)(F)F | C12H10F3N3O4
reactant | sodium hydride | 170 mg | [H-].[Na+]
reactant | 1-bromo-nonane | 0.7 ml | BrCCCCCCCCC | C9H19Br
product | 5,5-dimethyl-3-(4-nitro-3-trifluoromethyl-phenyl)-1-nonyl-2,4-imidazolidinedione | CC1(C(N(C(N1CCCCCCCCC)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O)C | C21H28F3N3O4
